US03966770
To a stirred solution of 7.7 g. of 4'-benzyloxy-3'-methylsulfonylmethylacetophenone and 2.15 g. of 2-pyrrolidinone in 300 ml. of tetrahydrofuran is added 12.5 g. of pyrrolidinone hydrotribromide (PHT) and the stirring is continued for 56 hours at room temperature. The mixture is filtered and the filtrate concentrated in vacuo to give an oil which crystallizes upon standing. The crystals are redissolved in chloroform. The chloroform solution is washed with water, dried and concentrated to yield a solid which is recrystallized from acetonitrile to give 4'-benzyloxy-2-bromo-3'-methylsulfonylmethylacetophenone, m.p. 143°-144° C.

reactant | 4'-benzyloxy-3'-methylsulfonylmethylacetophenone | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)=O)CS(=O)(=O)C | C17H18O4S
reactant | 2-pyrrolidinone | N1C(CCC1)=O | C4H7NO
reactant | pyrrolidinone hydrotribromide | C1CC(=O)NC1.Br[Br-]Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4'-benzyloxy-2-bromo-3'-methylsulfonylmethylacetophenone | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CBr)=O)CS(=O)(=O)C | C17H17BrO4S
